US04939266
In a small multi-necked reaction vessel equipped with a magnetic stirrer and gas inlet was placed isopropanol (2 ml), methyl-3-mercaptopropionate (2.0 g, 16.64 mmol), and n-octylamine (2.19 g, 16.94 mmol). The reaction vessel was connected to a trap containing bleach to trap mercaptan vapors, and the reaction was stirred for 19.5 hours while the reaction temperature was held at 30°-35° C. Methylene dichloride was added and the crude product was transferred to a round bottom flask. Evaporation of the solvent under reduced pressure yielded crude N-(n-octyl)-3-mercaptopropionamide as an oily white solid in essentially quantitative yield.

reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
reactant | methyl-3-mercaptopropionate | 16.64 mmol, 2.0 g | COC(CCS)=O | C4H8O2S
reactant | n-octylamine | 16.94 mmol, 2.19 g | C(CCCCCCC)N | C8H19N
solvent | Methylene dichloride | C(Cl)Cl | CH2Cl2
product | N-(n-octyl)-3-mercaptopropionamide | quantitative yield | C(CCCCCCC)NC(CCS)=O | C11H23NOS
